* CD14538BE Dual Monostable Multivibrator
* file name: CD14538BE.LIB
.subckt CD14538BE 1CGND 1RC 1nCLR 1B 1nA 1Q 1nQ VSS 2nQ 2Q 2nA 2B 2nCLR 2RC 2CGND VDD
.include cd4000.lib
XU1A 1CGND 1RC 1nCLR 1B 1nA VDD VSS 1Q 1nQ CD14538B
XU1B 2CGND 2RC 2nCLR 2B 2nA VDD VSS 2Q 2nQ CD14538B
.ends