* TLV271 Quad 16V 3Mhz Rail-to-Rail Op-Amp
* file name: TLV274.lib
.subckt TLV274 1out 1in- 1in+ vdd 2in+ 2in- 2out 3out 3in- 3in+ gnd 4in+ 4in- 4out
.include TLV271.LIB
XU1A 1in+ 1in- vdd gnd 1out TLV271
XU1B 2in+ 2in- vdd gnd 2out TLV271
XU1C 3in+ 3in- vdd gnd 3out TLV271
XU1D 4in+ 4in- vdd gnd 4out TLV271
.ends